US08227478B2
To a mixture of 3-nitrobenzene-1,2-diamine (15.0 g) in AcOH (100 mL) was added NaNO2 (7.0 g). The reaction mixture was stirred for 15 min at RT, then heated at 60° C. for about 2 h, over which time the reaction mixture turned red. The mixture was cooled to RT, diluted with ice water, and the resulting precipitate filtered off and washed with ice water, then dried under vacuum to yield 4-nitro-1H-benzotriazole (13.45 g, 83.6% yield) as a light brown solid. The product was used without further purification.

reactant | 3-nitrobenzene-1,2-diamine | 15.0 g | [N+](=O)([O-])C1=C(C(=CC=C1)N)N | C6H7N3O2
reactant | NaNO2 | 7.0 g | N(=O)[O-].[Na+]
solvent | AcOH | 100 mL | CC(=O)O | C2H4O2
product | 4-nitro-1H-benzotriazole | 13.45 g, 83.6% yield | [N+](=O)([O-])C1=CC=CC=2NN=NC21 | C6H4N4O2
